US04247551
N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(1-piperazinyl)-3-pyridazineamine
A mixture of 9.2 g (40 m moles) of 3-hydrazino-6-(1-piperazinyl)-pyridazine hydrochloride (m.p. 257° C.; prepared according to the procedure of U.K. Pat. No. 1.157.642), 3.28 g (40 m moles) of ethyl acetate and 4.82 g of 2,5-hexanedione in 100 ml of acetic acid is heated at 75° C. for 2 hours and then allowed to stand for two days at room temperature.

reactant | 3-hydrazino-6-(1-piperazinyl)-pyridazine hydrochloride | 9.2 g | Cl.N(N)C=1N=NC(=CC1)N1CCNCC1
reactant | ethyl acetate | 3.28 g | C(C)(=O)OCC | C4H8O2
reactant | 2,5-hexanedione | 4.82 g | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(1-piperazinyl)-3-pyridazineamine | CC=1N(C(=CC1)C)NC=1N=NC(=CC1)N1CCNCC1 | C14H20N6
